US06610691B1
3-[2-Carboxy-2-(4-methoxy-6-methyl-2-pyrimidinyloxy)-1,1-diphenylethoxy]-2,2-dimethylpropionic Acid
10.1 g (20 mmol) of methyl 3-[2-methoxycarbonyl-2-(4-methoxy-6-methyl-2-pyrimidinyloxy)-1,1-diphenylethoxy]-2,2-di-methylpropionate were dissolved in 50 ml of dioxane and 50 ml of 2N NaOH solution and stirred at 80° C. for 4 h. The solution was diluted with 300 ml of H2O and extracted with 100 ml of ethyl acetate. The aqueous phase was neutralized with 1N HCl and extracted with ethyl acetate, and the organic phase was dried over MgSO4, filtered and concentrated. The oily residue was crystallized from diethyl ether/hexane to result in 4.1 g (42%) of colorless crystals.

reactant | methyl 3-[2-methoxycarbonyl-2-(4-methoxy-6-methyl-2-pyrimidinyloxy)-1,1-diphenylethoxy]-2,2-di-methylpropionate | 20 mmol, 10.1 g | COC(=O)C(C(OCC(C(=O)OC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)OC1=NC(=CC(=N1)OC)C | C28H32N2O7
reactant | NaOH | 2N, 50 ml | [OH-].[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 300 ml | O | H2O
product | 3-[2-Carboxy-2-(4-methoxy-6-methyl-2-pyrimidinyloxy)-1,1-diphenylethoxy]-2,2-dimethylpropionic Acid | 4.1 g, 42% | C(=O)(O)C(C(OCC(C(=O)O)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)OC1=NC(=CC(=N1)OC)C | C26H28N2O7
